US06440975B1
3,3-Diphenyl-2-(4,6-dimethyl-2-pyrimidinylamino)propionic acid
2.60 g (10.8 mmol) of 2-amino-3,3-diphenylpropionic acid and 0.64 g (4.5 mmol) of 2-chloro-4,6-dimethylpyrimidine were introduced into a mixture of 16 ml of DMF and 16 ml of water, 0.57 g (5.4 mmol) of sodium carbonate was added and the mixture was stirred at 80° C. for 24 hours. Then 100 ml of ethyl acetate and a little water were added, and the phases were separated. The aqueous phase was acidified (pH 1-2) with 6 normal hydrochloric acid. The resulting precipitate was filtered off with suction and washed with ethyl acetate, then dried. 0.30 g (19.2%) of a white powder of melting point 172-174° C. was obtained.

reactant | 2-amino-3,3-diphenylpropionic acid | 10.8 mmol, 2.60 g | NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15NO2
reactant | 2-chloro-4,6-dimethylpyrimidine | 4.5 mmol, 0.64 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | DMF | 16 ml | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 5.4 mmol, 0.57 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 16 ml | O | H2O
product | 3,3-Diphenyl-2-(4,6-dimethyl-2-pyrimidinylamino)propionic acid | 0.30 g, 19.2% | C1(=CC=CC=C1)C(C(C(=O)O)NC1=NC(=CC(=N1)C)C)C1=CC=CC=C1 | C21H21N3O2
